US07893099B2
Step 7: (1R,2R,4R)-4-(4-Chloro-2-methyl-benzenesulfonyl)-2-((2S,6R)-2,6-dimethyl-morpholine-4-carbonyl)-cyclopentanecarboxylic acid cyanomethyl-amide
The title compound was prepared in analogy to example 11 using cis-2,6-dimethymorpholine instead of 2-oxa-6-aza-spiro[3.3]heptan and (1R,2R,4R)-4-(4-chloro-2-methyl-benzenesulfonyl)-2-(cyanomethyl-carbamoyl)-cyclopentanecarboxylic acid instead of (1R,2R,4R)-4-benzenesulfonyl-2-(1-cyano-cyclopropylcarbamoyl)-cyclopentanecarboxylic acid. Colorless oil. MS: 480.0 (M−H)−.

reactant | cis-2,6-dimethymorpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | (1R,2R,4R)-4-(4-chloro-2-methyl-benzenesulfonyl)-2-(cyanomethyl-carbamoyl)-cyclopentanecarboxylic acid | ClC1=CC(=C(C=C1)S(=O)(=O)[C@@H]1C[C@H]([C@@H](C1)C(=O)O)C(NCC#N)=O)C | C16H17ClN2O5S
product | (1R,2R,4R)-4-(4-Chloro-2-methyl-benzenesulfonyl)-2-((2S,6R)-2,6-dimethyl-morpholine-4-carbonyl)-cyclopentanecarboxylic acid cyanomethyl-amide | C(#N)CNC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)Cl)C)C(=O)N1C[C@@H](O[C@@H](C1)C)C | C22H28ClN3O5S
